US05017573
1-Benzyl-2,4-dimethyl-6-nitrohexahydro-1H-1,4-diazepine (5.1 g) is dissolved in ethanol (100 ml) and acetic acid (5 ml) and hydrogenerated over Raney-nickel (about 1 g) at 25° C. After the calculated amount of the hydrogen is absorbed, the catalyst is filtered off. The filtrate is evaporated under reduced pressure. The residue is dissolved in chloroform (100 ml), and acetic anhydride (4.0 g) is added to the solution. The reaction mixture is stirred for 2 hours at 25° C., diluted with aqueous sodium hydroxide solution, and extracted with chloroform. The organic layer is washed successively with water, aqueous sodium hydroxide solution, and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent is evaporated under reduced pressure, the residue is chromatographed on silica gel with.elution of chloroform-methanol (9:1). Fractions containing the object compound are pooled and evaporated under reduced pressure to give 6-acetylamino-1-benzyl-2,4-dimethylhexahydro-1H-1,4-diazepine (1.8 g) as an oil. The above compound is dissolved in 10% hydrochloric acid (20 ml) and is refluxed for 2 hours. After cooling, the reaction mixture is basified with aqueous sodium hydroxide solution and extracted with chloroform. The organic layer is washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent is evaporated under reduced pressure to give the title compound (1.5 g).

reactant | 1-Benzyl-2,4-dimethyl-6-nitrohexahydro-1H-1,4-diazepine | 5.1 g | C(C1=CC=CC=C1)N1C(CN(CC(C1)[N+](=O)[O-])C)C | C14H21N3O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney-nickel | about 1 g | [Ni] | Ni
product | 6-acetylamino-1-benzyl-2,4-dimethylhexahydro-1H-1,4-diazepine | 1.8 g | C(C)(=O)NC1CN(CC(N(C1)CC1=CC=CC=C1)C)C | C16H25N3O
